US04518597
6-[4-(4-tert.Butyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-tert.butyl-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | 4-tert.butyl-thiophenol | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
product | 6-[4-(4-tert.Butyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C(C)(C)(C)C1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C24H31NO3S
